US08247556B2
1H-Pyrazolo[3,4-b]pyridine-4-carbonitrile (290 mg, 2.01 mmol) was dissolved in aqueous NH4OH (4 mL) and EtOH (4 mL) then added wet Raney Nickel (2 mL). The reaction was put under a balloon of H2 gas and stirred for 18 h. The mixture was filtered through a pad of Celite®, washing with MeOH. The filtrate was concentrated in vacuo to yield C-(1H-pyrazolo[3,4-b]pyridin-4-yl)-methylamine as a tan solid.

reactant | 1H-Pyrazolo[3,4-b]pyridine-4-carbonitrile | 2.01 mmol, 290 mg | N1N=CC2=C1N=CC=C2C#N | C7H4N4
reactant | EtOH | 4 mL | CCO | C2H6O
solvent | NH4OH | 4 mL | [NH4+].[OH-]
catalyst | Raney Nickel | 2 mL | [Ni] | Ni
product | C-(1H-pyrazolo[3,4-b]pyridin-4-yl)-methylamine | N1N=CC=2C1=NC=CC2CN | C7H8N4
